US04036971
N-[2-(5-Methyl-4-imidazolylmethylthio)ethyl]-4-mercaptobenzamidine
4-Cyanothiophenol was treated with hydrogen chloride in ether at 0° and the hydrochloride salt produced was treated with potassium carbonate to give ethyl 4-mercaptobenzimidate. Ethyl 4-mercaptobenzimidate was treated with 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole in dry ethanol at room temperature to give the title product.

reactant | Ethyl 4-mercaptobenzimidate | SC1=CC=C(C(OCC)=N)C=C1 | C9H11NOS
reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole | CC=1N=CNC1CSCCN | C7H13N3S
solvent | ethanol | C(C)O | C2H6O
product | N-[2-(5-Methyl-4-imidazolylmethylthio)ethyl]-4-mercaptobenzamidine | CC1=C(N=CN1)CSCCNC(C1=CC=C(C=C1)S)=N | C14H18N4S2
